US04098888
to a suspension of 6.25 g of phosphorus pentachloride in 45 ml of anhydrous methylene chloride cooled at -10° C, is added 20 ml of anhydrous methylene chloride solution containing 2.4 g of pyridine and the mixed solution is stirred for 30 minutes. To the solution is dropwise added a solution of 9.3 g of 7β-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester in 30 ml of anhydrous methylene chloride during 30 minutes under stirring and keeping at -20° C - -10° C. The mixture is further stirred for 2 hours at the same temperature and then cooled to -30° C - -20° C, followed by adding dropwise 56 ml of methanol. Thus obtained solution is stirred for 30 minutes, keeping the temperature of the solution between -5° C and 5° C, and 60 ml of water is added dropwise thereto, followed by further stirring for 30 minutes. Methylene chloride layer is washed with saturated aq. NaCl solution and concentrated. To the concentrate is added a mixture of water and ethyl acetate under stirring to give 4.746 g of 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio methyl)-3-cephem-4-carboxylic acid benzhydryl ester as a crystal. Yield 64.0%. (2) To a suspension of 2.05 g of α-ethoxyimino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid in 50 ml of methylene chloride is added 1.50 g of phosphorus pentachloride under cooling. The mixture is stirred for 2 hours at room temperature and subjected to the distillation of methylene chloride. The residue is dissolved in 20 ml of tetrahydrofuran. The tetrahydrofuran solution is dropwise added while stirring to a solution of 2.92 g of 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester dissolved in 50 ml of absolute methylene chloride, followed by the addition of 2.87 g of pyridine under ice-cooling. After the addition has been completed and the temperature of the reaction solution becomes the same as the room temperature, the solution is stirred for 2 hours and then concentrated. The residue is dissolved in a mixture of 100 ml of ethyl acetate and a little amount of tetrahydrofuran. Thus obtained solution is washed with dilute hydrochloric acid, sodium bicarbonate aq. solution and water in this order, dried over anhydrous magnesium sulfate and concentrated. The concentrate is purified by means of a column of silica gel. The fractions eluted with the mixture of ethyl acetate and chloroform (1:1) are concentrated to obtain 2.36 g of 7β-{α-ethoxyimino-[2-(chloroacetamido)thiazol-4-yl]acetamido}-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester. Yield 50%.

reactant | phosphorus pentachloride | 6.25 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 2.4 g | N1=CC=CC=C1 | C5H5N
reactant | 7β-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester | 9.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC=2SC=CC2)=O)=O)C(C)SC2=NN=NN2 | C29H26N6O4S3
reactant | methanol | 56 ml | CO | CH4O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 60 ml | O | H2O
product | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio methyl)-3-cephem-4-carboxylic acid benzhydryl ester | 4.746 g, Yield 64.0% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(C)SC2=NN=NN2 | C23H22N6O3S2
